US08871738B2
To tert-butyl 4-{5-[2-{(1R,5S,7aS)-1-[3,5-bis(trifluoromethyl)phenyl]-3-oxotetrahydro-1H-pyrrolo[1,2-c][1,3]oxazol-5-yl}-4-(trifluoromethyl)phenyl]-6-methoxypyridin-3-yl}-3-methylbenzoate (1 g, 1.28 mmol) was added dichloromethane:TFA (9:1, 10 mL). The reaction was stirred overnight at room temperature. Upon completion the solvent was removed under reduced pressure and the resultant residue was redissolved in acetonitrile for direct purification by reverse phase HPLC to yield 4-{5-[2-{(1R,5S,7aS)-1-[3,5-bis(trifluoromethyl)phenyl]-3-oxotetrahydro-1H-pyrrolo[1,2-c][1,3]oxazol-5-yl}-4-(trifluoromethyl)phenyl]-6-methoxypyridin-3-yl}-3-methylbenzoic acid (0.674 g, 0.931 mmol). 1H NMR indicated that this compound exists as a pair of rotamers at 1.2:1 ratio. 1H NMR (500 MHz, CDCl3) δ8.27 (s, 1H), 8.04 (m, 4H, peaks overlap for the two rotamers), 7.90 (s, 1H), 7.84 (s, 2H, minor rotamer), 7.83 (s, 2H, major rotamer), 7.75 (s, 1H, major rotamer), 7.67 (s, 1H, minor rotamer), 7.63 (d, J=8 Hz, 1H, major rotamer), 7.42 (m, 2H), 7.38 (d, J=7.9 Hz, 1H, major rotamer), 7.36 (d, J=7.9 Hz, 1H, minor rotamer), 6.11 (d, J=7.9 Hz, 1H, minor rotamer), 6.09 (d, J=7.9 Hz, 1H, major rotamer), 5.27 (t, J=7.9 Hz, 1H, major rotamer), 4.95 (t, J=7.9 Hz, 1H, minor rotamer), 4.62 (m, 1H, minor rotamer), 4.51 (m, 1H, major rotamer), 4.12 (s, 3H, minor rotamer), 3.94 (s, 3H, minor rotamer), 2.45 (s, 3H, minor rotamer), 2.45 (s, 3H, major rotamer), 2.37 (m, 1H), 2.2 (m, 1H), 2.05 (m, 1H), 1.85 (m, 1H), 1.55 (m, 1H), 1.4 (m, 1H), 1.1 (m, 2H). MS ESI calc'd. for C35H26F9N2O5 [M+H]+ 725.2. found 725.0. RTA (95% HS): 53.18 nM

reactant | tert-butyl 4-{5-[2-{(1R,5S,7aS)-1-[3,5-bis(trifluoromethyl)phenyl]-3-oxotetrahydro-1H-pyrrolo[1,2-c][1,3]oxazol-5-yl}-4-(trifluoromethyl)phenyl]-6-methoxypyridin-3-yl}-3-methylbenzoate | 1.28 mmol, 1 g | FC(C=1C=C(C=C(C1)C(F)(F)F)[C@@H]1[C@H]2N(C(O1)=O)[C@@H](CC2)C2=C(C=CC(=C2)C(F)(F)F)C=2C=C(C=NC2OC)C2=C(C=C(C(=O)OC(C)(C)C)C=C2)C)(F)F | C39H33F9N2O5
solvent | dichloromethane TFA | 10 mL | ClCCl.C(=O)(C(F)(F)F)O
product | 4-{5-[2-{(1R,5S,7aS)-1-[3,5-bis(trifluoromethyl)phenyl]-3-oxotetrahydro-1H-pyrrolo[1,2-c][1,3]oxazol-5-yl}-4-(trifluoromethyl)phenyl]-6-methoxypyridin-3-yl}-3-methylbenzoic acid | 0.931 mmol, 0.674 g | FC(C=1C=C(C=C(C1)C(F)(F)F)[C@@H]1[C@H]2N(C(O1)=O)[C@@H](CC2)C2=C(C=CC(=C2)C(F)(F)F)C=2C=C(C=NC2OC)C2=C(C=C(C(=O)O)C=C2)C)(F)F | C35H25F9N2O5
